US09029374B2
8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (185 mg, 0.37 mmol), N,N-diethylaniline (174 μl, 1.10 mmol) and 3-ethynyl-5-fluoro-N-methylaniline (60 mg, 0.40 mmol) in DMF (1043 μl) were stirred at 50° C. for 2 days. Purification was done using an analogous procedure to the one described in Example 3.03 to give 8-(1-((3-ethynyl-5-fluorophenyl)(methyl)amino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (60 mg, 34%) as a white solid. Mass Spectrum: M+H+ 478. NMR Spectrum (DMSOd6): 1.55 (d, 3H), 2.62 (s, 3H), 2.92 (bs, 3H), 3.01 (bs, 3H), 3.18-3.27 (m, 2H), 3.28-3.33 (m partially hidden by H2O, 2H), 3.40-3.48 (m, 2H), 3.48-3.57 (m, 2H), 4.21 (s, 1H), 5.54 (q, 1H), 5.62 (s, 1H), 6.52 (d, 1H), 6.73 (d, 1H), 6.80 (s, 1H), 7.72 (d, 1H), 7.89 (d, 1H).

reactant | 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 0.37 mmol, 185 mg | BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C18H21BrN2O4
reactant | N,N-diethylaniline | 1.10 mmol, 174 μl | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | 3-ethynyl-5-fluoro-N-methylaniline | 0.40 mmol, 60 mg | C(#C)C=1C=C(NC)C=C(C1)F | C9H8FN
solvent | DMF | 1043 μl | CN(C)C=O | C3H7NO
product | 8-(1-((3-ethynyl-5-fluorophenyl)(methyl)amino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 60 mg, 34% | C(#C)C=1C=C(C=C(C1)F)N(C(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C)C | C27H28FN3O4
